US08053457B2
N-(2-Aminomethyl-5-chloro-phenyl)-N′,N′-dimethyl-ethane-1,2-diamine
The title compound is synthesized by coupling followed by reduction of 4-chloro-2-fluoro-benzonitrile and 2-dimethylamino-ethylamine analogously to the preparation of Intermediate 113.1 as a colorless oil; 1HNMR (CDCl3) δ 9.20 (bs, 1H), 7.18-7.10 (m, 2H), 6.95 (d, 1H), 4.60 (s, 2H), 3.80 (s, 2H), 3.25-3.05 (m, 4H), 2.25 (s, 6H); HPLC: AtRet=1.26 min.

reactant | 4-chloro-2-fluoro-benzonitrile | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 2-dimethylamino-ethylamine | CN(CCN)C | C4H12N2
product | N-(2-Aminomethyl-5-chloro-phenyl)-N′,N′-dimethyl-ethane-1,2-diamine | NCC1=C(C=C(C=C1)Cl)NCCN(C)C | C11H18ClN3
